US06355642B1
1-Benzyl-4-phenyl-1,2,3,6-tetrahydropyridine
1,2,3,6-Tetrahydro-4-phenylpyridine (410 mg, 2.6 mmol), benzaldehyde (300 mg, 2.9 mmol), sodium triacetoxyborate (1.1 g, 5.2 mmol) and acetic acid (1.5 ml, 26 mmol) were stirred in dichloroethane at a room temperature for 14 hours. To the reaction solution was added ethyl acetate, and the resulting solution was washed with sodium hydroxide aqueous solution (1 N) and saturated brine and dried with anhydrous sodium sulfate. Then the solvent was evaporated under a reduced pressure. Thereafter, the resulting residue was separated and purified by a silica gel column chromatography to obtain 330 mg of the title compound (1.3 mmol, 45% in yield).

reactant | 1,2,3,6-Tetrahydro-4-phenylpyridine | 2.6 mmol, 410 mg | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | benzaldehyde | 2.9 mmol, 300 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 26 mmol, 1.5 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 1-Benzyl-4-phenyl-1,2,3,6-tetrahydropyridine | 1.3 mmol, 330 mg, 45% | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=CC=C1 | C18H19N
